US05849921
1-(3-Furyl)-1-(4-methyl-5-thiazolyl)methanol
4-Methylthiazole (3 g) in dry diethyl ether was added dropwise to a stirred solution of n-butyllithium (1.6M in hexanes, 21 ml) in diethyl ether (20 ml) at -78° C. under an atmosphere of dry nitrogen. After 30 minutes, trimethylsilylchloride (3.9 ml) was added and the mixture was then allowed to warm to 0° C. The mixture was then cooled to -78° C. and further n-butyllithium (21 ml) was added. The mixture was warmed to 0° C. After 30 minutes the mixture was again cooled to -78° C. and 3-furaldehyde (5 g) in diethyl ether (10 ml) was added. The mixture was allowed to warm to room temperature and after 30 minutes saturated aqueous sodium hydrogen carbonate was added. The reaction mixture was extracted with diethyl ether in the usual manner to give the crude product which was then purified by flash chromatography on silica gel to give the title compound. M.p. 44°-46° C.

reactant | 4-Methylthiazole | 3 g | CC=1N=CSC1 | C4H5NS
reactant | n-butyllithium | 1.6M, 21 ml | C(CCC)[Li]
reactant | trimethylsilylchloride | 3.9 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | n-butyllithium | 21 ml | C(CCC)[Li]
reactant | 3-furaldehyde | 5 g | O1C=C(C=C1)C=O | C5H4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 1-(3-Furyl)-1-(4-methyl-5-thiazolyl)methanol | O1C=C(C=C1)C(O)C1=C(N=CS1)C | C9H9NO2S
